US09238640B2
To a solution of N-(1-(4-(hydroxymethyl)phenyl)piperidin-4-yl)benzamide (1.1 g, 3.5 mmol) in CH2Cl2 (250 mL) was added TPAP (0.123 g, 0.35 mmol) and NMO (0.623 g, 5.3 mmol). After 1 hour, the mixture was filtered through Celite, concentrated, and purified by silica gel chromatography, eluting with 30% ethyl acetate/hexanes to 100% ethyl acetate, to afford N-(1-(4-formylphenyl)piperidin-4-yl)benzamide as a white solid (0.350 g, 32%).

reactant | N-(1-(4-(hydroxymethyl)phenyl)piperidin-4-yl)benzamide | 3.5 mmol, 1.1 g | OCC1=CC=C(C=C1)N1CCC(CC1)NC(C1=CC=CC=C1)=O | C19H22N2O2
reactant | NMO | 5.3 mmol, 0.623 g | C[N+]1(CCOCC1)[O-] | C5H11NO2
solvent | CH2Cl2 | 250 mL | C(Cl)Cl | CH2Cl2
catalyst | TPAP | 0.35 mmol, 0.123 g | CCC[N+](CCC)(CCC)CCC.[O-][Ru](=O)(=O)=O
product | N-(1-(4-formylphenyl)piperidin-4-yl)benzamide | 0.350 g, 32% | C(=O)C1=CC=C(C=C1)N1CCC(CC1)NC(C1=CC=CC=C1)=O | C19H20N2O2
